### ISSUE TITLE
splitting match with type rewriting involved

### ISSUE THREAD

**Issue by fpfu** [leanprover/lean4#1113]
### Prerequisites

* [X] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover/lean4/issues).
    * Reduced the issue to a self-contained, reproducible test case.

### Description

```lean
def foo: {n: Nat} → Fin n → Nat
|   0, _ => 0
| n+1, _ => 0

theorem t1 {f: Fin (n+1)}:
  foo f = 0 := by 
  simp only [foo]

theorem t2  {f: Fin (n+1)}:
  foo f = 0 := by 
  delta foo
  split
  rfl

theorem t3 {f: Fin (n+1)}:
  foo f = 0 := by 
  -- this shouldn't produce an auxiliary definition since `Fin (n + 1)` is definitionally equal to `Fin n.succ`
  simp only [←Nat.succ_eq_add_one n] at f
  simp only [foo]

-- it works: 
example {n: Nat} {f: Fin (n+1)}:
  foo f = 0 := by
  revert f
  rw[←Nat.succ_eq_add_one n]
  intro f
  simp only [foo]
```

**Expected behavior:** 

`t3` probably should work since e49179c807e8c1bed2a6beb2589f6da4a6611900

`t1` and `t2` probably should work because corresponding lean3 code works:

```lean
def foo: Π {n : ℕ}, fin n → ℕ
| (  0) _ := 0
| (n+1) _ := 0

lemma t1 {n: ℕ} {f: fin (n+1)}:
  foo f = 0 :=
begin
  simp only [foo],
end

lemma t2 {n: ℕ} {f: fin (n+1)}:
  foo f = 0 :=
begin
  delta foo,
  split,
end
``` 

**Actual behavior:** got errors on `t1`, `t2` and `t3`:

```
unsolved goals
n : Nat
f : Fin (n + 1)
⊢ (match n + 1, f with
    | 0, x => 0
    | Nat.succ n, x => 0) =
    0
```

```
tactic 'split' failed
n : Nat
f : Fin (n + 1)
⊢ (match n + 1, f with
    | 0, x => 0
    | Nat.succ n, x => 0) =
    0
```

```
unsolved goals
n : Nat
f✝ : Fin (n + 1)
f : Fin (Nat.succ n)
⊢ (match n + 1, f✝ with
    | 0, x => 0
    | Nat.succ n, x => 0) =
    0
```

**Reproduces how often:** 100%

### Versions
`nightly-2022-04-21`

**Comment by leodemoura** [comment]
Note that Lean 3 equation compiler is quite different from Lean 4.
In Lean 3, the equation compiler generates equations theorems even for nonrecursive definitions. This was not a feature by a side-effect of the fact that Lean 3 has no support for showing `match`-expressions in goals. 
Moreover, the Lean 3 equations theorems for `foo` are
```lean
foo.equations._eqn_1 : ∀ (_x : fin 0), foo _x = 0
foo.equations._eqn_2 : ∀ (n : ℕ) (_x : fin (n + 1)), foo _x = 0
```
Both Lean 3 and Lean 4, `simp` uses a restricted definitional equality test when pattern matching the equation left-hand-side, but in both cases, it uses no restriction when checking whether the types match too. This is perfect for the equations above. Moreover, even if one uses 
```lean
def inc (x : nat) := x + 1

lemma t1 {n: ℕ} {f: fin (inc n)}:
  foo f = 0 :=
begin
  simp only [foo],
end
```
It will work on Lean 3.
In Lean 4, we can represent `match`-expressions in goals, and we actually just unfold `foo`'s definition when using `simp only [foo]`. It is just using delta reduction. However, the resulting `match` does not reduce because `n+1` is not a `reducible` definition, and will not reduce to `Nat.succ n`.
Regarding `split`, the Lean 4 version is inspired by the Isabelle version and is used to split `match` and `if-then-else` expressions. The `split` in Lean 3 is a variant of the constructor tactic.
Regarding `t3`, we are currently not checking whether a theorem has a `rfl` proof or not. So, from the point-of-view of `simp`, it is not a `rfl` proof. This can be improved. I will add support for this.

**Comment by leodemoura** [comment]
Note that `t3` has to be written as:
```lean
theorem t3 {f: Fin (n+1)}:
  foo f = 0 := by
  simp only [←Nat.succ_eq_add_one n] at f -- it works as expected now, but it is not needed
  simp only [←Nat.succ_eq_add_one n, foo] -- We need `←Nat.succ_eq_add_one n` to be able to rewrite the `match` discriminant to a `Nat.succ` 
```

**Comment by fpfu** [comment]
Thank you! It works great.
Am I right, that you didn't improve `rw` tactic in the same way just to not complicate it and because there is `simp_rw` tactic?

`Mathlib4` has one regression bug when compiled with `nightly-2022-04-22`:

```lean
@[simp]
theorem exists_prop {p q : Prop} : (∃ h : p, q) ↔ p ∧ q :=
Iff.intro (fun ⟨hp, hq⟩ => And.intro hp hq) (fun ⟨hp, hq⟩ => Exists.intro hp hq)

namespace Option

def get {α : Type u} : ∀ {o : Option α}, isSome o → α
| some x, h => x

@[simp] theorem isSome_none : @isSome α none = false := rfl
@[simp] theorem isSome_some {a : α} : isSome (some a) = true := rfl
@[simp] theorem get_some (x : α) (h : isSome (some x)) : Option.get h = x := rfl

theorem eq_some_iff_get_eq {o : Option α} {a : α} :
  o = some a ↔ ∃ h : o.isSome, Option.get h = a := by 
  cases o; simp; intro h; cases h; contradiction
  -- doesn't work
  simp[exists_prop]
  try rw[exists_prop]
  -- workaround
  rename_i b
  have := exists_prop (p:= isSome (some b) = true) (q:=b=a)
  rw [this]
  simp
```

**Comment by leodemoura** [comment]
> Thank you! It works great, but fails if the equation was stored in a local variable:

The `rfl` check is syntactic. We check for proofs using `rfl`, `Eq.refl`, `Eq.symm`, and applications of `rfl` theorems.
Lean 3 performs an even simpler check. 
In principle, we could check whether any `simp` argument is proof for an equality that holds definitionally, but we are concerned this can be very expensive for complex developments. So, a more conservative option would be a flag or annotation. Then, we would perform the potentially expensive check only when requested by the user.
@digama0  @jcommelin Any thoughts?

**Comment by leodemoura** [comment]
Regarding the regression, I will analyze them.

**Comment by fpfu** [comment]
If such a check is so expensive, than probably rewriting in types should be implemented in a separate tactic `rw_in_place`, which will simply do:
```
revert ...
rw [...]
intro ...
``` 
and will work fast and not only for definitional equalities? Or is this too naive reasoning?

**Comment by leodemoura** [comment]
I pushed fixes for the two regressions above.

**Comment by fpfu** [comment]
Thank you! It is much better now.

I isolated one more example that stops working after `nightly-2022-04-22`, but I doubt whether it is actually regression or not:

```lean
def Set (α : Type u) := α → Prop
def mem (a : α) (s : Set α) := s a
def image (f : α → β) (s : Set α) : Set β := fun b => ∃ a, mem a s ∧ f a = b

@[congr] theorem image_congr {f g : α → β} {s : Set α}
  (h : ∀ a, mem a s → f a = g a) : image f s = image g s := sorry

example {Γ: Set Nat}: (image (Nat.succ ∘ Nat.succ) Γ) = (image (fun a => a.succ.succ) Γ) := by
  simp only [Function.comp_apply]
```

**Comment by leodemoura** [comment]
The commit above fixes the `image` example regression.
